US06747023B1
Ethyl 2,5-dihydro-5-oxo-6-(pyridin-4-yl)-1,2,4-triazine-3-carboxylate
Ethyl thiooxamate (172 mg) was suspended in ethanol (5 ml) at 0° C., followed by the addition of hydrazine monohydrate (63 μl). While the resulting gas was suctioned, the resulting mixture was stirred for 30 minutes. Ethyl (pyridin-4-yl)glyoxylate hydrate (254 mg) was added to the reaction mixture and the mixture was stirred at room temperature for 30 minutes. After heating under reflux for 4 hours, the reaction mixture was concentrated. The yellow powder thus precipitated was collected by filtration and dried, whereby the title compound (140 mg) was obtained.

reactant | Ethyl thiooxamate | 172 mg | C(C(=O)N)(=S)OCC | C4H7NO2S
reactant | hydrazine monohydrate | 63 μl | O.NN
reactant | Ethyl (pyridin-4-yl)glyoxylate hydrate | 254 mg | O.N1=CC=C(C=C1)C(C(=O)OCC)=O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | Ethyl 2,5-dihydro-5-oxo-6-(pyridin-4-yl)-1,2,4-triazine-3-carboxylate | 140 mg | O=C1N=C(NN=C1C1=CC=NC=C1)C(=O)OCC | C11H10N4O3
